### PR TITLE
Cup Products, stage 2

### PR DESCRIPTION
**Pull request by timjb**

### CODE REVIEW

File: core/lib/types/Smash.agda [hunk 1]
```diff
@@ -6,13 +6,11 @@ open import lib.types.Coproduct
 open import lib.types.Paths
 open import lib.types.Span
 open import lib.types.Pushout
-open import lib.types.Cofiber
 open import lib.types.Sigma
-open import lib.types.Wedge
 
-module lib.types.Smash {i j} where
+module lib.types.Smash where
```
Comment (favonia) [inline core/lib/types/Smash.agda]: @timjb Is this due to some type-checking issue or just coding style (which is fine)? It seems all the following still has "{i j}" as the prefix.

Comment (timjb) [reply core/lib/types/Smash.agda]: That's a leftover of some development that I did in this file (which required generalizing the universe levels) which I later moved to a separate (still uncommitted) file. You're right that this change is not needed (anymore). Still, I like the way it is now better: Introducing the universe levels together with the types they're for seems cleaner to me.

Comment (favonia) [reply core/lib/types/Smash.agda]: I actually agree! I was just curious if there's any other reason. :smile:

File: core/lib/types/Nat.agda [hunk 2]
```diff
@@ -77,6 +78,13 @@ instance
   ℕ-level {⟨-2⟩} = ℕ-is-set
   ℕ-level {n = S n} = raise-level (S (S n)) ℕ-level
 
+even : ℕ → Bool
+even O = true
+even (S n) = negate (even n)
+
+odd : ℕ → Bool
+odd = negate ∘ even
+
```
Comment (favonia) [inline core/lib/types/Nat.agda]: @timjb I wonder `even (S n) = odd n` and `odd (S n) = even n` would be easier because of the double negation in the following code. I could be wrong.

Comment (timjb) [reply core/lib/types/Nat.agda]: @favonia One advantage of the definition `odd = negate ∘ even` is that `odd n`, `even n`, `odd (S n)`, `even (S n)`, ... all reduce to `even n`. With `even` and `odd` defined by mutual recursion, there are two propositions `even n` and `odd n` for every `n` that are not judgmentally related. So you would have to prove (by induction) that e.g. `odd n == negate (even n)` and `even n == negate (odd n)`. With the current definitions of `even` and `odd`, the first path is reflexivity and the second path is an instance of `!-!`.

**Comment by timjb** [comment]
@favonia I've finally finished proving commutativity of the CP defined on cohomology groups! This has taken a lot more time that I expected, since it required going over the whole proof of commutativity of the CP on Eilenberg--MacLane spaces and generalizing everything from normal maps to pointed maps.

Beginning tomorrow, I will stop formalizing new stuff and resume writing everything up. I would appreciate it if you could review this PR sometime this month or next month before merging it.

File: core/lib/PathFunctor.agda [hunk 3]
```diff
@@ -302,46 +311,51 @@ module _ {i} {A : Type i} where
...
   homotopy-naturality-to-cst : ∀ {k} {B : Type k} (f : A → B) (b : B)
+    (h : (x : A) → f x == b) {x y : A} (p : x == y)
+    → ap f p ◃∙ h y ◃∎ =ₛ h x ◃∎
+  homotopy-naturality-to-cst f b h p@idp = =ₛ-in idp
+
+  homotopy-to-cst-ap : ∀ {k} {B : Type k} (f : A → B) (b : B)
     (h : (x : A) → f x == b) {x y : A} (p : x == y)
     → ap f p == h x ∙ ! (h y)
-  homotopy-naturality-to-cst f b h {x} p@idp = ! (!-inv-r (h x))
+  homotopy-to-cst-ap f b h {x} p@idp = ! (!-inv-r (h x))
```
Comment (favonia) [inline core/lib/PathFunctor.agda]: What does the ending `ap` mean? It seems `naturality` also involves `ap`. I am not against this, but I would like to learn the rationale.

File: core/lib/types/Group.agda [hunk 4]
```diff
@@ -289,6 +302,12 @@ contr-is-trivialᴳ : ∀ {i} (G : Group i)
 contr-is-trivialᴳ G g =
   contr-has-all-paths _ _
 
+abgroup= : ∀ {i} (G H : AbGroup i)
+  → AbGroup.grp G == AbGroup.grp H
+  → G == H
+abgroup= G H p =
+  pair= p (contr-center (↓-level (is-abelian-is-prop (AbGroup.grp H))))
```
Comment (favonia) [inline core/lib/types/Group.agda]: You can probably use `Subtype=` here.

File: core/lib/groups/TensorProduct.agda [hunk 5]
```diff
@@ -43,11 +43,37 @@ module TensorProduct₀ {i} {j} (G : AbGroup i) (H : AbGroup j) where
...
-    lin-r : ∀ g h₁ h₂ → g ⊗ H.comp h₁ h₂ == comp (g ⊗ h₁) (g ⊗ h₂)
-    lin-r g h₁ h₂ = rel-holds (linear-r g h₁ h₂)
+    ⊗-lin-l : ∀ g₁ g₂ h → G.comp g₁ g₂ ⊗ h == comp (g₁ ⊗ h) (g₂ ⊗ h)
+    ⊗-lin-l g₁ g₂ h = rel-holds (linear-l g₁ g₂ h)
+
+    ⊗-lin-r : ∀ g h₁ h₂ → g ⊗ H.comp h₁ h₂ == comp (g ⊗ h₁) (g ⊗ h₂)
+    ⊗-lin-r g h₁ h₂ = rel-holds (linear-r g h₁ h₂)
+
+    ⊗-ident-l : ∀ h → G.ident ⊗ h == ident
+    ⊗-ident-l h = cancel-l (G.ident ⊗ h) $
```
Comment (favonia) [inline core/lib/groups/TensorProduct.agda]: I believe we name this lemma as `unit-l` in other places.

File: core/lib/groups/TensorProduct.agda [hunk 6]
```diff
@@ -43,11 +43,37 @@ module TensorProduct₀ {i} {j} (G : AbGroup i) (H : AbGroup j) where
...
+      comp (G.ident ⊗ h) (G.ident ⊗ h)
+        =⟨ ! (⊗-lin-l G.ident G.ident h) ⟩
+      G.comp G.ident G.ident ⊗ h
+        =⟨ ap (_⊗ h) (G.unit-l G.ident) ⟩
+      G.ident ⊗ h
+        =⟨ ! (unit-r (G.ident ⊗ h)) ⟩
+      comp (G.ident ⊗ h) ident =∎
+
+    ⊗-ident-r : ∀ g → g ⊗ H.ident == ident
+    ⊗-ident-r g = cancel-r (g ⊗ H.ident) $
```
Comment (favonia) [inline core/lib/groups/TensorProduct.agda]: And `unit-r` for this one.

File: theorems/cohomology/CupProduct/Definition.agda [hunk 7]
```diff
@@ -0,0 +1,304 @@
...
+
+  ⊙Ω∧-cp : ∀ (m n : ℕ) → ⊙Ω (⊙EM G (S m)) ⊙∧ ⊙Ω (⊙EM H (S n)) ⊙→ ⊙Ω (⊙EM G⊗H.abgroup (S (m + n)))
+  ⊙Ω∧-cp m n = ⊙compose (⊙Ω∧-cp-seq m n)
+
+
+  _∪_  : ∀ {m n : ℕ} → CEl G (pos m) X → CEl H (pos n) X → CEl G⊗H.abgroup (pos (m + n)) X
+  _∪_ {m} {n} s t = Trunc-rec (λ s' → Trunc-rec (λ t' → [ ⊙Ω∧-cp m n ⊙∘ smin-map s' t' ]) t) s
+
+  -- ∪-hom : ∀ {m n : ℕ} → TensorProduct.grp (C-abgroup G (pos m) X) (C-abgroup H (pos n) X) →ᴳ C G⊗H.abgroup (pos (m + n)) X
+  -- ∪-hom = {!!}
```
Comment (favonia) [inline theorems/cohomology/CupProduct/Definition.agda]: Is this something you are planning to do in the future?

**Review by favonia — APPROVED** [review]
This is such an amazing work! Thanks for the contribution.

File: core/lib/PathFunctor.agda (hunk 3 above)
Comment (timjb) [reply core/lib/PathFunctor.agda]: I chose the suffix `-ap` because the statement involves `ap`. I'm not happy with this choice either. Two suggestions:

* `homotopy-naturality-to-cst'` would make sense since the statement is similar to ``homotopy-naturality-to-cst` (with the paths "rotated").
* `ap-homotopic-to-cst` would make sense, since the definition can be seen as the generalization of `ap-cst` where the function is not judgmentally the constant function, but only homotopic to it. (This is my favorite.)

File: core/lib/types/Group.agda (hunk 4 above)
Comment (timjb) [reply core/lib/types/Group.agda]: Yes, that works!

File: core/lib/groups/TensorProduct.agda (hunk 5 above)
Comment (timjb) [reply core/lib/groups/TensorProduct.agda]: That's right. I will change that.

File: theorems/cohomology/CupProduct/Definition.agda (hunk 7 above)
Comment (timjb) [reply theorems/cohomology/CupProduct/Definition.agda]: Currently I'm not planning to do this. I have already deleted this comment.

File: core/lib/PathFunctor.agda (hunk 3 above)
Comment (favonia) [reply core/lib/PathFunctor.agda]: Sorry for the late reply. I am more worried about consistency, and I think both are compatible with the documented convention. (In fact, I think the intention was to adopt cubical methods instead of naturality lemmas.) I wonder how one can generalize the `homotopic` so that it can be registered as a general principle.

Comment (timjb) [reply core/lib/PathFunctor.agda]: Another proposal: `ap-null-homotopic`

Citing [Wikipedia](https://en.wikipedia.org/wiki/Homotopy#Null-homotopy):

> A function f is said to be null-homotopic if it is homotopic to a constant function.

I am not sure what kind of generalization you are seeking. In our naming convention, `null-homotopic` (or `homotopic-to-cst`) could be used everywhere where `cst` or `idf` is used.

Comment (favonia) [reply core/lib/PathFunctor.agda]: I was worried about the parsing of a name involving `to`. In general, `A-to-B` is the (canonical) function from `A` to `B`. In this case, it is fine because `cst` is not a type, but I do not know what to say if we are going to consider `homotopic-to-X` for generic `X`. `null-homotopic` also works because there is no confusion in special cases.

Comment (timjb) [reply core/lib/PathFunctor.agda]: I've renamed the function to `ap-null-homotopic`.

**Comment by timjb** [comment]
@favonia I think this is ready to merge!

**Comment by favonia** [comment]
@timjb Do you want to pull the trigger?

**Comment by Alizter** [comment]
This is a bit daunting to go through. Could you write a small summary of what has been added?

**Comment by favonia** [comment]
@timjb Maybe it would be a good idea to update `README.md` with short descriptions of the new files and pointers to your thesis. :thinking:

**Comment by timjb** [comment]
@favonia Good idea! I will do this.
